US20010025045A1
2,4-Diethoxy-5-bromobenzylalcohol
To 2,4-diethoxy-5-bromobenzaldehyde (34.1g, 0.13mol) in toluene (1l) at −78° C. under argon was added DIBAL (92ml of a 1.5M solution in toluene). The mixture was then allowed to warm up to 25° C. over 2h. Water (400ml) was gradually added with stirring. The layers were then separated, the organic phase filtered and concentated in vacuo to afford the title compound (34g, 99%).

reactant | 2,4-diethoxy-5-bromobenzaldehyde | 0.13mol, 34.1g | C(C)OC1=C(C=O)C=C(C(=C1)OCC)Br | C11H13BrO3
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | Water | 400ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-Diethoxy-5-bromobenzylalcohol | 99% | C(C)OC1=C(CO)C=C(C(=C1)OCC)Br | C11H15BrO3
